US07915411B2
N′-(3,5-Dicyano-6-methyl-pyridin-2-yl)-N,N-dimethyl-formamidine
A solution of 2-Amino-6-methyl-pyridine-3,5-dicarbonitrile (0.158 g, 1.0 mmol) and N,N-Dimethylformamide dimethyl acetal (0.119 g, 1.0 mmol) in toluene (10 mL) was heated at reflux for 6 hours. After cooling to room temperature, the solution was concentrated under vacuum to provide the title compound as a brown solid (0.2 g, 94%).

reactant | 2-Amino-6-methyl-pyridine-3,5-dicarbonitrile | 1.0 mmol, 0.158 g | NC1=NC(=C(C=C1C#N)C#N)C | C8H6N4
reactant | N,N-Dimethylformamide dimethyl acetal | 1.0 mmol, 0.119 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(3,5-Dicyano-6-methyl-pyridin-2-yl)-N,N-dimethyl-formamidine | 0.2 g, 94% | C(#N)C=1C(=NC(=C(C1)C#N)C)N=CN(C)C | C11H11N5
